US05374720
Triethylamine (1.27 ml, 9.55 mmol) was added to a solution of (2S,4R)-4-tert-butyldimethylsiloxy-N-tert-butoxycarbonylprolinal (19.1 g, 57.87 mmol) in nitromethane (95 ml) under stirring and cooling with ice. This solution was left to stand at room temperature for hours. The solvent was distilled off under reduced pressure, and the residue was subjected to silica gel column chromatography (Wakogel™ C-300, 350 g, hexane-ethyl acetate 9:1) to obtain oily (2S,4R)-4-tert-butyldimethylsiloxy-N-tert-butoxycarbonyl-2-(1-hydroxy-2-nitroethyl)pyrrolidine (14.81 g, yield: 65.5%). IR(KBr)cm-1 : 3420, 1675, 1700, 1560, 1415, 1255, 1165, 840, 780

reactant | Triethylamine | 9.55 mmol, 1.27 ml | C(C)N(CC)CC | C6H15N
reactant | (2S,4R)-4-tert-butyldimethylsiloxy-N-tert-butoxycarbonylprolinal | 57.87 mmol, 19.1 g | O([Si](C)(C)C(C)(C)C)[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C=O | C16H31NO4Si
reactant | nitromethane | 95 ml | [N+](=O)([O-])C | CH3NO2
product | (2S,4R)-4-tert-butyldimethylsiloxy-N-tert-butoxycarbonyl-2-(1-hydroxy-2-nitroethyl)pyrrolidine | 14.81 g, yield: 65.5% | O([Si](C)(C)C(C)(C)C)[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(C[N+](=O)[O-])O | C17H34N2O6Si
